Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
neomycin
 
Attending: ___.
 
Chief Complaint:
"I'm falling apart." 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ and Dr. ___ 
initial consultation note dated ___ 
admission note dated ___. 
.
Briefly, this is a ___ year old unmarried, employed woman, 
previously diagnosed with depression, anxiety, s/p one prior 
psychiatric hospitalization, history of stage I breast cancer, 
currently in remission, no prior suicide attempts, who self 
presented to ___ reporting worsening depression and suicidal 
ideation. 
. 
Upon initial interview, patient reported a longstanding history 
of depression in the setting of a difficult childhood, reporting 
she is chronically depressed with feelings of emptiness with 
episodes of worsening depression and anxiety superimposed on 
baseline depression. Reported  Stated with numerous medication
trials and reported that despite treatment with desvenlafaxine 
and Ativan, she has had persistently low mood, hypersomnia, 
fatigue, and intermittent passive SI. She reported she was 
recently started on Lamictal that had been titrated up to 100 
mg. Patient reported periods where she would cry uncontrollably, 
worsening feelings of hopelessness, anhedonia, decreased 
appetite with "gagging" when she thinks of eating food.  
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints.
. 
Upon interview, patient confirmed the history initially provided 
in the ED. Ms. ___ reported she has been struggling with 
depression "for a very long time, but my meds are usually 
helpful." In the setting of a difficult childhood, she reported 
feeling chronically unhappy with intermittent periods of 
happiness and chronic feelings of emptiness with a history of 
worsening depressive episodes that are superimposed on her 
baseline depression. Patient reported last feeling herself in 
___ add began noticing her medications were not working
earlier this ___. Given her worsening depression, she had 
recently been trialed on Abilify, Rexulti while on Pristiq. 
Stated that she had also been put on Ativan titrated to 1 mg po 
bid and 1 mg prn, which was helpful until recently, "and then I 
started waking up with anxiety." Of note, patient reports that 
one of the recent stressors was the departure of her boss, who 
had hired her about ___ years ago-- she states that he was one of 
the only people she has trusted in her life and that now she 
fears she will lose her job given the uncertainty in the ___ 
administration (works as a ___ for ___ and 
___). She was recently trialed on Lamictal as noted above, 
but without improvement, and patient states she worries the 
Lamictal has worsened her depression. 
. 
In this setting, patient described anhedonia, stating that while 
she used to enjoy reading and gardening, she no longer 
experiences any pleasure. Reported hypersomnia, stating she 
sleeps about 12 hours per night and that the mornings are the 
most difficult time for her and that her day tends to improve as 
it goes on. Stated she has had difficulty concentrating at work 
and is behind on a few projects, which she also finds stressful, 
as she has a new boss, but admitted her new supervisor appears 
to be supportive. Endorsed difficulty eating as noted in HPI, 
stating she gags at the thought of food sometimes. Reported 
suicidal ideation, stating she thinks about it and wishes she 
could fall asleep and not wake up. States she has thought about 
overdosing on her medications but she is unsure if she has 
enough medications. She also reported thinking about slitting 
her wrists but wants to avoid a painful death. When asked what 
has stopped her from killing herself, she stated she is afraid 
that if she dies, "there might be something worse than this life 
awaiting me." 
. 
On the day of presentation, patient reported she woke up "and I 
couldn't deal and I couldn't stop crying." Stated she fed her 
cats and then went back to bed. Stated she became desperate and 
went into the bathroom, took a pair of cuticle scissors and 
started "marking up myself... I knew I had to come the 
hospital."
. 
Patient reports that she currently feels safe on the unit. 
Denies intent to harm herself on the unit. On psychiatric review 
of systems, denied history of manic symptoms including decreased 
need for sleep, hypersexuality, excessive energy, increased 
spending, grandiosity.  Denied a history of psychosis including 
auditory or visual hallucinations, paranoia, thought insertion 
or broadcasting.  She did report significant anxiety, improved 
on Ativan. Denies alcohol or drug use. 
. 
The patient's permission, I did contact Ms. ___ outpatient 
psychopharmacologist, who confirmed the above history and 
confirmed that the patient has no known history of suicide 
attempts. Discussed the plan for consultation for ECT, which the 
patient was agreeable to, and Ms. ___ was in agreement with 
this plan.
 
Past Medical History:
Past psychiatric history:
- Diagnoses: Major depressive disorder, recurrent, severe, 
anxiety disorder
- Hospitalizations: one prior psychiatric hospitalization ___ 
years
ago at ___ in the setting of medication changes, changing a job,
and a stressful living situation with her partner's sister 
- SA/SIB: denies/denies 
- Medication Trials: numerous, including Prozac, Wellbutrin,
Seroquel, Zoloft, Rexulti, Abilify
- Psychopharmacologist: ___, NP ___
- Therapist: ___: ___ 
. 
Substance use history:
- Alcohol: denies history of abuse, reports drinking about ___
beers every other day 
- Illicits: denies
- Tobacco: denies 
. 
Past medical history:
- History of breast cancer, stage 1, diagnosed about ___ years ago
s/p lumpectomy. 
. 
Current Medications: 
-Desvenlafaxine 100mg daily
-Lamotrigine 100 mg daily
-Lorazepam .___ TID:PRN anxiety
-Supplements: vitamin D, primrose, turmeric, fish oil, 
magnesium,
complex B

Allergies: Neomycin

 
Social History:
Personal and Social History: Patient reports she was born and 
raised in ___ and grew up as the oldest of 3 children 
with a younger and brother and sister. Patient reported chaotic 
childhood, describing her father as a "tyrant" and my mother 
allowed it. Stated her father felt that "kids should be seen and 
not heard" and that "my parents never understood me and
everything was about my father." Stated she was a "good kid" and 
that she was able to obtain a scholarship to college. Identified 
that she has "trust issues" and states the only person she 
trusts is her boss, who has left his job and her therapist. 
Reports her parents are still alive and live in very northern 
___ near the ___. Reports her sister is in ___ and she is not close with her. Her brother lives in 
___, and she reports she is closer to him. Patient has 
been with her boyfriend/"husband" (not legally married) for the 
past ___ years and described the relationship has been "okay," 
stating he did suffer from a drinking problem in the past. 
Stated they never
married because "I was petrified I would have to do what my 
husband said." Reports she has never had children because she 
did not feel as if she could even take care of herself. 
Currently lives in ___ with her boyfriend, ___. Denies 
history of legal issues, no sexual or physical abuse 
 
Family History:
Family psychiatric history:
- Diagnoses: no formal diagnoses, but patient states she 
believes her father suffered from depression and her mother from 
anxiety 
- SA/SIB: reports a cousin on her maternal side completed 
suicide
- Addictions: denies 
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
VS: T: 97.7, BP: 117/82, HR: 92, R: 18, O2 sat: 95% on RA
General: ___ female in apparent emotional distress.
Well-nourished, well-developed. Appears older than stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Linear erythematous excoriation marks bilaterally on the
flexor surfaces of her forearms, approximately 15 cm in length, 
1
cm x 1 cm erythematous macule anterior to the right superior
auricle of the ear, no rashes, abrasions, scars.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: $1.75 = "7 quarters"
Abstraction: "Do not judge a book by its cover" = "the inside is
not like the outside of the person."
Visuospatial: not assessed
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation
Mental Status:
Appearance: Apparent distress, appears older than stated age,
fairly groomed, appropriately dressed in two hospital gowns.
Behavior: Intermittently tearful, at times inconsolable and
needing time to gather herself to continue the interview,
cooperative, engaged, intermittent eye contact, psychomotor
retardation appreciated
Mood and Affect: "Terrible." /Dysthymic, limited and restricted
range, appropriate to situation, congruent with mood
Thought Process: linear, coherent, goal-oriented "I want to get
better." No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: Impaired/impaired
_________________________________________________

PHYSICAL EXAM ON DISCHARGE:
VS: 97.8 126/86 99 16 97%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted. 
S: normal rate, volume, prosody, goal directed
M: "okay" 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Pertinent Results:
___ 11:00AM   WBC-6.5 RBC-5.45* HGB-15.6 HCT-46.9* MCV-86 
MCH-28.6 MCHC-33.3 RDW-13.2 RDWSD-40.9
___ 11:00AM   NEUTS-79.0* LYMPHS-14.8* MONOS-5.4 EOS-0.0* 
BASOS-0.3 IM ___ AbsNeut-5.13 AbsLymp-0.96* AbsMono-0.35 
AbsEos-0.00* AbsBaso-0.02
___ 09:18PM   GLUCOSE-125* UREA N-10 CREAT-1.0 SODIUM-142 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-28 ANION GAP-14
___ 09:18PM   CALCIUM-9.8 PHOSPHATE-3.9 MAGNESIUM-2.3 
CHOLEST-235*
___ 09:18PM   TRIGLYCER-86 HDL CHOL-75 CHOL/HDL-3.1 
LDL(CALC)-143*
___ 09:18PM   LIPASE-28
___ 09:18PM   ALT(SGPT)-22 AST(SGOT)-16 ALK PHOS-84 TOT 
BILI-0.7
___ 09:18PM   VIT B12-409 FOLATE-10
___ 10:00AM BLOOD TSH-3.1
___ 11:00AM   TSH-2.1
___ 11:00AM   T4-8.4 T3-148
___ 09:18PM   HCG-<5
___ 11:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 11:00AM URINE  RBC-0 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-<1
 
Brief Hospital Course:
This is a ___ year old unmarried, employed woman, previously 
diagnosed with depression, anxiety, s/p one prior psychiatric 
hospitalization, history of stage I breast cancer, currently in 
remission, no prior suicide attempts, who self presented to 
___ reporting worsening depression and suicidal ideation with 
recent episode of self injurious behavior in the setting of her 
supervisor recently departing her workplace. 
. 
Upon interview, the patient reports a long-standing history of 
depressive symptoms consistent with dysthymia in the setting of 
a chaotic childhood with chronically low mood and feelings of 
emptiness. In addition, the patient reports episodic periods of 
worsening depression with her most recent episode characterized 
by anhedonia, low mood, hypersomnia, poor energy and 
concentration, poor appetite, periods of uncontrollable crying, 
with associated anxiety and suicidal ideation with thoughts of
overdosing or slitting her wrist. Mental status examination is 
notable for a slightly disheveled woman with depressed mood and 
significantly dysphoric affect who is tearful throughout the 
interview. Thought processes notably linear, goal and future 
oriented.
. 
Diagnostically, presentation is consistent with double 
depression with patient likely meeting criteria for dysthymia 
and major depressive disorder, recurrent, severe, without 
psychotic features. Of note, I cannot rule out an underlying 
bipolar 
disorder, although there is nothing in her history that would be 
completely consistent with prior episode of hypomania or mania. 
However, given the refractory nature of her depressive symptoms 
I would continue to keep bipolar on the differential. Given her 
good health, and unremarkable laboratory results, depression 
secondary to an underlying medical condition is more remote, 
although she has a history of malignancy in the past, her cancer 
has been in remission for a number.  In addition, no history of 
substance use tox screen was negative on admission, I do not 
believe that substance is currently contributing to her 
presentation.
.
#. Legal/Safety: Patient admitted to ___ on a ___, upon admission, she signed a CV, which was accepted. Patient 
did have one episode of behavioral dysregulation where she 
became distraught and held a plastic knife to her throat. 
Patient did not self harm during this episode and was responsive 
to supportive measures. Of note, she did not require physical or 
chemical restraints during her admission. 
. 
#. MDD: recurrent, severe, without psychotic features: as noted 
above 
- Patient was compliant in attending groups and participated 
actively and appropriately in her care. 
- After discussion of the risks and benefits and given partial 
response in the past, we continued her home dose of 
desvenlafaxine at 100 mg po qd. 
- For mood stability, after discussion of the risks and 
benefits, we increased Lamictal from 100 mg po qd to 125 mg po 
qd, which she tolerated well without complaints of side effects. 

- For periods of agitation and affective instability, after 
discussion of the risks and benefits, we started low dose 
risperidone 0.5 mg po qam, as this was reportedly her most 
difficult time of day in addition to 0.5 mg po tid prn. She 
tolerated this well with improvement of her irritability and 
affective instability. 
- Ativan was continued at 1 mg po tid and titrated to 1 mg po 
bid prior to discharge, given risk of tolerance. 
- Given apparent refractory nature of her depression and 
numerous medication trials, we discussed the risks and benefits 
of ECT, which the patient agreed to. Patient was seen in 
consultation with Dr. ___, who felt ECT was 
appropriate and was medically cleared. She received 3 ECT 
treatments during her hospitalization, which she tolerated well 
without complications. 
- Of note, in the setting of the stabilizing environment of the 
milieu, patient showed rapid improvement in her symptoms despite 
receiving only 1 treatment of ECT. Ms. ___ reported 
resolution of her depression, improvement in sleep and was note 
to be euthymic with consistent denial of suicidal ideation or 
thoughts of self harm and improvement in anxiety symptoms. She 
was noted to be euthymic on examination with thought process 
that was notably linear, goal and future oriented. 
- Prior to discharge, patient did express some reluctance for 
discharge, noting she tends to become "comfortable on the 
inpatient unit." Admitted that she feels quite stressed at work 
and that she recently found her mother was in the hospital. 
Provided significant psychoeducation and supportive 
psychotherapy on the importance of caring for herself and 
setting limits with her family, and the patient was receptive to 
this. 
- During her hospitalization, her partner came in for a family 
meeting and the hospital course and treatment plan was 
discussed. He was in agreement with this plan and would support 
the patient/stay with her, particularly on the days of ECT 
treatment. 
- The treatment team was also in contact with her outpatient 
psychopharmacologist, who was supportive of ECT treatment and 
very involved in her care. We attempted to reach her outpatient 
therapist on numerous occasions, but were unable to contact her, 
as her mailbox was full. However, patient reported she had been 
in touch with her therapist and had a phone check in on the 
evening of discharge.
.
#. Medical: no acute issues during this hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. desvenlafaxine succinate 100 mg oral DAILY 
2. LamoTRIgine 25 mg PO QID 
3. LORazepam 1 mg PO TID:PRN anxiety 
4. Vitamin D 400 UNIT PO DAILY 
5. Primrose Oil (eve prim-linoleic-gamolenic ac) 1,000 mg oral 
DAILY 
6. turmeric-herbal complex ___ unknown  oral DAILY 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Magnesium Oxide Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  RisperiDONE 0.5 mg PO TID:PRN Anxiety/Agitation 
RX *risperidone [Risperdal] 0.5 mg 1 tablet(s) by mouth as 
directed Disp #*60 Tablet Refills:*0 
2.  RisperiDONE 0.5 mg PO DAILY  
3.  LamoTRIgine 125 mg PO DAILY 
RX *lamotrigine [Lamictal] 100 mg 1 tablet(s) by mouth daily 
Disp #*15 Tablet Refills:*0
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
4.  desvenlafaxine succinate 100 mg oral DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Vitamin D 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Recurrent episode, Severe, without 
psychotic features
Generalized anxiety disorder 

 
Discharge Condition:
VS:   97.8   126/86   99   16    97%RA    
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted. 
S: normal rate, volume, prosody, goal directed
M: 'okay' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___